US08865732B2
A mixture of 3-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine (200 mg, 0.8 mmol) and 2-(4-fluorophenyl)oxazol-4-yl trifluoromethanesulfonate (250 mg, 0.8 mmol), and 2.0 M aqueous Na2CO3 (1.2 mL, 2.4 mmol) in DME (2.0 mL) was sparged with Ar. Dichlorobis(triphenylphosphine)palladium(0) (281 mg, 0.4 mmol) was added and the reaction mixture was irradiated at 150° C. for 15 min in a microwave reactor. After cooling to rt, the reaction mixture was diluted with water and extracted with EtOAc (3×). The combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by flash chromatography over (SiO2, 100:0-0:100 hexanes-EtOAc) to provide 145 mg of 5-(2-(4-fluorophenyl)oxazol-4-yl)-3-methoxypyridin-2-amine: LCMS (m/z): 286.1 (MH+), tR=0.68 min.

reactant | 3-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine | 0.8 mmol, 200 mg | COC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)N | C12H19BN2O3
reactant | 2-(4-fluorophenyl)oxazol-4-yl trifluoromethanesulfonate | 0.8 mmol, 250 mg | FC(S(=O)(=O)OC=1N=C(OC1)C1=CC=C(C=C1)F)(F)F | C10H5F4NO4S
reactant | Na2CO3 | 2.4 mmol, 2.0 M, 1.2 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 2.0 mL | COCCOC | C4H10O2
solvent | water | O | H2O
product | 5-(2-(4-fluorophenyl)oxazol-4-yl)-3-methoxypyridin-2-amine | 145 mg | FC1=CC=C(C=C1)C=1OC=C(N1)C=1C=C(C(=NC1)N)OC | C15H12FN3O2
